US07585875B2
A mixture of 500 mg (2 mmol) of 2-chloro-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one, 272 μl (2.4 mmol) of N-methylpiperazine and 50 mg of NaI in 4 ml of MeOH was stirred at RT for 4 days. The solvent was removed and the crude residue was purified on an Al2O3 column. The fractions containing purified product were titrated with 4N HCl-dioxane to obtain a precipitate. Recrystallization from isopropanol/ether produced 150 mg of 1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)-2-(4-methylpiperazin-1-yl)propan-1-one hydrochloride (shown in neutral form above). Compound 1035.

reactant | 2-chloro-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one | 2 mmol, 500 mg | ClC(C(=O)C=1C(=NN2C1C=CC=C2)C(C)C)C | C13H15ClN2O
reactant | N-methylpiperazine | 2.4 mmol, 272 μl | CN1CCNCC1 | C5H12N2
reactant | NaI | 50 mg | [Na+].[I-]
solvent | MeOH | 4 ml | CO | CH4O
product | 1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)-2-(4-methylpiperazin-1-yl)propan-1-one hydrochloride | 150 mg | Cl.C(C)(C)C1=NN2C(C=CC=C2)=C1C(C(C)N1CCN(CC1)C)=O | InChI=1S/C18H26N4O.ClH/c1-13(2)17-16(15-7-5-6-8-22(15)19-17)18(23)14(3)21-11-9-20(4)10-12-21;/h5-8,13-14H,9-12H2,1-4H3;1H
